US08877754B2
2-(4-Iodo-benzyl)-2-methyl-malonic acid diethyl ester
220 mg (10 mmol) sodium in small pieces are added to 15 mL EtOH. After 15 min 1.65 mL (9.70 mmol) 2-methyl-malonic acid diethyl ester are added. The mixture is stirred at reflux for 15 min and subsequently 3.00 g (10.1 mmol) 4-iodobenzyl bromide are added. The mixture is stirred at reflux for 12 h. After that time, the solvent is evaporated and the residue is purified by column chromatography (silicia gel; cyclohexane:EtOAc 98:2) to yield the desired product.

reactant | sodium | 10 mmol, 220 mg | [Na] | Na
reactant | 2-methyl-malonic acid diethyl ester | 9.70 mmol, 1.65 mL | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | 4-iodobenzyl bromide | 10.1 mmol, 3.00 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-(4-Iodo-benzyl)-2-methyl-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(C)CC1=CC=C(C=C1)I)=O | C15H19IO4
